US06586429B2
A suspension of (R)-1-(5-acetoxyhexyl)-7-benzyl-8-cyano-3-methylxanthine (850 mg, 2.0 mmol) and 10% palladium on carbon (300 mg) in glacial acetic acid (60 ml) was treated with hydrogen gas (80 psi) on a Parr shaker for 3 hours. After filtering through a pad of celite, the filtrate was concentrated under reduced pressure to provide the acetic acid salt of (R)-1-(5-acetoxyhexyl)-8-aminomethyl-7-benzyl-3-methylxanthine.

reactant | (R)-1-(5-acetoxyhexyl)-7-benzyl-8-cyano-3-methylxanthine | 2.0 mmol, 850 mg | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)C#N)C)C | C22H25N5O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | (R)-1-(5-acetoxyhexyl)-8-aminomethyl-7-benzyl-3-methylxanthine | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CN)C)C | C22H29N5O4
